US03943154
25.5 g (0.1 mol) of ethyl 3-(4-aminobenzenesulfonyl) acrylate, prepared by refluxing 3-(4-aminobenzenesulfonyl)acrylamide in an excess of absolute ethanol and in the presence of concentrated sulfuric acid as a condensing agent, are dissolved in acetone (100 ml). 14.5 ml of triethylamine (0.1 mol) are added as an HCl acceptor. A solution of p-toluenesulfonyl chloride (19.1 g, 0.1 mol) in 50 ml acetone is added dropwise at room temperature. The reaction mixture is left for 12 hours and is then poured into ice water. The precipitated solid is recovered by filtration, dried and recrystallized from ethanol, giving ethyl 3-[4-(4-methylbenzenesulfonamido)benzenesulfonyl]acrylate: ##SPC15##

reactant | 3-(4-aminobenzenesulfonyl)acrylamide | NC1=CC=C(C=C1)S(=O)(=O)C=CC(=O)N | C9H10N2O3S
reactant | triethylamine | 0.1 mol, 14.5 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
reactant | p-toluenesulfonyl chloride | 0.1 mol, 19.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3-[4-(4-methylbenzenesulfonamido)benzenesulfonyl]acrylate | CC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC(=O)OCC | C18H19NO6S2
